* C:\Users\Santiago\Desktop\facu\2026c1\Circuitos G4\Checkpoint 3\Simulaciones\Pop.asc
Q2 N004 Vref N009 0 BC547B
Q4 N004 N004 N002 0 BC557B
R1 Vo N007 10k
R2 0 N007 10k
R3 Vreg N010 4k7
Vreg1 Vreg 0 9.5
RL Vo 0 50
Qtip32a Vx N001 Vreg 0 PNP
RS1 Vx Vo 2.2
R13 Vf N008 10k
R9 N008 Vref 1.2k
R8 N008 Vo 150
R7 N006 Vx 3.9k
R12 N006 0 10k
XU2 N006 N008 Vreg 0 Vf LM358
Q3 N005 N004 N003 0 BC557B
Q1 N005 N007 N009 0 BC547B
Q6 N009 N010 N012 0 BC547B
Q7 N010 N010 N011 0 BC547B
Q9 N001 N005 Vx 0 BC547B
Q8 N005 Vf 0 0 BC547B
R4 Vreg Vref 680
XU1 0 Vref Vref TL431
R6 Vreg N002 100
RS2 Vx Vo 1.8
R5 Vreg N003 100
R11 N012 0 100
R14 N011 0 100
C2 N005 P001 330n
R10 P001 0 22
.model NPN NPN
.model PNP PNP
.lib C:\Users\Santiago\AppData\Local\LTspice\lib\cmp\standard.bjt
* .include tip32a.lib
.lib opamp.sub
.inc lm358.lib
.include TL431.mod
* Q5
.op
.lib TL431.mod
.backanno
.end
